US05696132
7-(1,4-Diazabicyclo[3.2.1]octan-4-yl)-6,8-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
To 5 ml of dried N,N-dimethylformamide were added 211 mg of 6,7,8-trifluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 372 mg of 1,4-diazabicyclo[3.2.1]octane dihydrochloride, and 2 ml of triethylamine, and the mixture was stirred at 100° C. for 1 hour. After allowing to cool, the reaction mixture was concentrated under reduced pressure, and the residue was dissolved in a 1N sodium hydroxide aqueous solution while cooling with ice. After neutralizing with 1N hydrochloric acid, the mixture was extracted with chloroform, and the extract was dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the resulting crude crystals were recrystallized from a mixed solvent of ethanol and 28% aqueous ammonia. The precipitated crystals were collected by filtration, washed with diethyl ether, and dried at 60° C. in vacuo overnight to yield 170 mg of the titled compound as a yellow powder.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 6,7,8-trifluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 211 mg | FC=1C(=C2C(C(=CN(C2=C(C1F)F)[C@H]1[C@H](C1)F)C(=O)O)=O)C | C14H9F4NO3
reactant | 1,4-diazabicyclo[3.2.1]octane dihydrochloride | 372 mg | Cl.Cl.N12CCNC(CC1)C2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 7-(1,4-Diazabicyclo[3.2.1]octan-4-yl)-6,8-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 170 mg | N12CCN(C(CC1)C2)C2=C(C(=C1C(C(=CN(C1=C2F)[C@H]2[C@H](C2)F)C(=O)O)=O)C)F | C20H20F3N3O3
